US07307088B2
Preparation LXXIX: 1-Acetyl-6-amino-3,3-dimethylindoline
1-(3,3-dimethyl-6-nitro-2,3-dihydro-indol-1-yl)ethanone (250 mg) was dissolved in MeOH (20 mL), the mixture was bubbled with H2 for 10 min. 10% Pd/C (50 mg) was added and the mixture was stirred under H2 overnight. The mixture was filtered through Celite® and concentrated in vacuo. The crude material was purified by flash chromatography on silica gel with 1:1 EtOAc:CH2Cl2 to afford the title compound as a white crystalline material. MS: 205 (M+1). Calc'd. for C12H16N2O-204.27.

reactant | 1-(3,3-dimethyl-6-nitro-2,3-dihydro-indol-1-yl)ethanone | 250 mg | CC1(CN(C2=CC(=CC=C12)[N+](=O)[O-])C(C)=O)C | C12H14N2O3
solvent | MeOH | 20 mL | CO | CH4O
product | 1-Acetyl-6-amino-3,3-dimethylindoline | C(C)(=O)N1CC(C2=CC=C(C=C12)N)(C)C | C12H16N2O
